US05189046
To a stirred, cooled (0° C.) solution of 14.3 grams (61.4 mmol) of tridecanoyl chloride in 50 mL of methylene chloride was added 7.49 grams (61.3 mmol) of N,N-dimethylaminopyridine. The resulting suspension was stirred for 10 minutes and then 11.0 grams (51.3 mmol) of 2-[N-(tert-butoxycarbonyl)aminomethyl]piperidine in 50 mL of methylene chloride was added. The mixture was allowed to warm to room temperature while stirring overnight and poured into water. The aqueous layer was extracted with methylene chloride and the combined organic layers were washed with brine and dried over MgSO4. Solvent was removed at reduced pressure and the crude product was chromatographed on 250 grams of silica gel eluting with 25% ethyl acetate in hexane to provide 20.9 grams (99%) of N-(tert-butoxycarbonyl)-N-([1-(1-oxotridecyl)-2-piperidinyl]methyl)amine as a viscous orange oil.

reactant | tridecanoyl chloride | 61.4 mmol, 14.3 grams | C(CCCCCCCCCCCC)(=O)Cl | C13H25ClO
reactant | 2-[N-(tert-butoxycarbonyl)aminomethyl]piperidine | 51.3 mmol, 11.0 grams | C(C)(C)(C)OC(=O)NCC1NCCCC1 | C11H22N2O2
reactant | water | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(tert-butoxycarbonyl)-N-([1-(1-oxotridecyl)-2-piperidinyl]methyl)amine | 20.9 grams, 99% | C(C)(C)(C)OC(=O)NCC1N(CCCC1)C(CCCCCCCCCCCC)=O | C24H46N2O3
